* XOR
         
.INCLUDE 45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

.PARAM Lmin=45n
.PARAM Wmin=1u
.PARAM Ldiff=90n

Vdd vdd gnd 1.2v	
Va ina 0 1.2v
Vb inb 0 0v

.subckt xor in1 in2 o2 1 0
	X1 in1 in3 1 0 not
	X2 in2 in4 1 0 not
	M1 a in1 0 0 nmos W={Wmin} L={Lmin} 
	M2 a in4 0 0 nmos W={Wmin} L={Lmin} 
	M3 o2 in3 a 0 nmos W={Wmin} L={Lmin}
	M4 o2 in2 a 0 nmos W={Wmin} L={Lmin}	
	M5 o2 in1 b 1 pmos W={Wmin} L={Lmin}
	M6 o2 in2 b 1 pmos W={Wmin} L={Lmin}
	M7 b in2 1 1 pmos W={Wmin} L={Lmin}
	M8 b in4 1 1 pmos W={Wmin} L={Lmin}
.ends

.subckt not a b 1 0
	M1 b a 0 0 nmos W={Wmin} L={Lmin}  
	M2 b a 1 1 pmos W={Wmin} L={Lmin}  
.ends
	
X1 ina inb out vdd gnd xor

.CONTROL
	set wr_vecnames
	set wr_singlescale
	set appendwrite

	foreach VA 0 1.2
		alter Va = $VA
		foreach VB 0 1.2
			alter Vb = $VB
				op
				* print X1.a X1.b out
				wrdata xor.txt X1.a X1.b out
		end
	end

	run

.ENDC
.END